US05840732
Synthesis of 3-[5-(imidazo[1,2-a]pyridin-5-yl)pentyl]thiazolidine-2,4-dione
A suspension of 2.22 g (10 mmol) of 5-(5-chloropentylthio)imidazo[1,2-a]pyridine and 1.40 g (10 mmol) of thiazolidine-2,4-dione sodium salt in 30 ml of N,N-dimethylformamide was heated at 80° C. for 16 hours. After cooling, the reaction mixture was poured into water, extracted with ethyl acetate, washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate→ethyl acetate/ethanol=10/1) to yield 1.56 g (51.4%, light brown oily substance) of the desired product.

reactant | 5-(5-chloropentylthio)imidazo[1,2-a]pyridine | 10 mmol, 2.22 g | ClCCCCCSC1=CC=CC=2N1C=CN2 | C12H15ClN2S
reactant | thiazolidine-2,4-dione sodium salt | 10 mmol, 1.40 g | [Na].S1C(NC(C1)=O)=O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-[5-(imidazo[1,2-a]pyridin-5-yl)pentyl]thiazolidine-2,4-dione | N=1C=CN2C1C=CC=C2CCCCCN2C(SCC2=O)=O | C15H17N3O2S
